US07485643B2
Step F: Preparation of 6-acetyl-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid.
To a solution of 6-acetyl-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester (200 mg, 0.59 mmol) in THF-water (2 mL/0.5 mL) was added 1 M aqueous LiOH (1.21 mL, 1.21 mmol) at room temperature. The reaction mixture was stirred for 30 minutes, acidified to pH 1 with 1 N aqueous HCl, and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give the desired acid (166 mg, 86%) that was used directly without further purification.

reactant | 6-acetyl-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 0.59 mmol, 200 mg | COC(C1=C(C(=C(C=C1C(C)=O)F)F)NC1=C(C=CC=C1)Cl)=O | C16H12ClF2NO3
reactant | LiOH | 1.21 mmol, 1 M, 1.21 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF water | 2 mL | C1CCOC1.O
product | 6-acetyl-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid | 166 mg, 86% | C(C)(=O)C1=CC(=C(C(=C1C(=O)O)NC1=C(C=CC=C1)Cl)F)F | C15H10ClF2NO3
